US07700591B2
A solution of tert-butyl 1-(1-hydroxyethyl)-3,3-dimethoxycyclopentanecarboxylate (8.64 g, 31.5 mmol) in 100 mL of DCM was treated with triethylamine (8.78 mL, 63.0 mmol) followed by acetic anhydride (5.94 mL, 63.0 mmol). Then DMAP (˜200 mg) was added and the resulting mixture was stirred at rt overnight. The reaction mixture was diluted with DCM, washed twice with 1N HCl solution, once with saturated NaHCO3 solution, and once with brine. The organic layer was dried over anhydrous MgSO4, filtered, and concentrated. Purification by flash chromatography (silica, 20% ethyl acetate/hexanes) provided tert-butyl 1-[1-(acetyloxy)ethyl]-3,3-dimethoxycyclopentanecarboxylate.

reactant | tert-butyl 1-(1-hydroxyethyl)-3,3-dimethoxycyclopentanecarboxylate | 31.5 mmol, 8.64 g | OC(C)C1(CC(CC1)(OC)OC)C(=O)OC(C)(C)C | C14H26O5
reactant | triethylamine | 63.0 mmol, 8.78 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 63.0 mmol, 5.94 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | ˜200 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 1-[1-(acetyloxy)ethyl]-3,3-dimethoxycyclopentanecarboxylate | C(C)(=O)OC(C)C1(CC(CC1)(OC)OC)C(=O)OC(C)(C)C | C16H28O6
